US08957078B2
Sodium t-butoxide (586.0 mg, 6.098 mmol) was added to a solution of 4,6-dichloropyrimidin-5-amine (500 mg, 3.049 mmol) and (3R)-1-methylpiperidin-3-ol (351.2 mg, 3.049 mmol) in THF (25.00 mL) at RT. The reaction mixture was heated at 70° C. overnight. The reaction mixture was quenched with 1 mL water and concentrated in vacuo. The residue was extracted with DCM and the combined organic extract were dried and concentrated in vacuo to afford (R)-4-chloro-6-((1-methylpiperidin-3-yl)oxy)pyrimidin-5-amine which was used in next step without further purification.

reactant | Sodium t-butoxide | 6.098 mmol, 586.0 mg | CC(C)([O-])C.[Na+]
reactant | 4,6-dichloropyrimidin-5-amine | 3.049 mmol, 500 mg | ClC1=NC=NC(=C1N)Cl | C4H3Cl2N3
reactant | (3R)-1-methylpiperidin-3-ol | 3.049 mmol, 351.2 mg | CN1C[C@@H](CCC1)O | C6H13NO
solvent | THF | 25.00 mL | C1CCOC1 | C4H8O
product | (R)-4-chloro-6-((1-methylpiperidin-3-yl)oxy)pyrimidin-5-amine | ClC1=NC=NC(=C1N)O[C@H]1CN(CCC1)C | C10H15ClN4O
